US07612078B2
3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)-4-fluorobenzonitrile
The title compound was prepared (119 mg, 45%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (150 mg, 0.56 mmol) and 4-fluoro-3-formylbenzonitrile (83 mg, 0.56 mmol) by following the general procedure described for Preparation 11. 1H NMR (400 MHz, CDCl3): δ 8.45 (s, 1H), 7.85 (m, 1H), 7.60 (m, 1H), 7.15 (t, 1H), 7.00 (s, 1H), 5.00 (d, 1H), 4.20 (m, 1H), 3.60 (s, 2H), 2.90 (m, 2H), 2.35 (m, 2H), 2.15 (m, 2H), 1.60 (m, 2H). MS (ESI) m/z: Calculated: 401.09; Observed: 402.1 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 0.56 mmol, 150 mg | ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C11H13ClN4S
reactant | 4-fluoro-3-formylbenzonitrile | 0.56 mmol, 83 mg | FC1=C(C=C(C#N)C=C1)C=O | C8H4FNO
product | 3-((4-(6-Chlorothieno[2,3-d]pyrimidin-4-ylamino)piperidin-1-yl)methyl)-4-fluorobenzonitrile | ClC1=CC2=C(N=CN=C2NC2CCN(CC2)CC=2C=C(C#N)C=CC2F)S1 | C19H17ClFN5S
